Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with hx ___ disease s/p bilateral DBS, 
depression,
and urodynamic partial obstruction with repeated urinary
retention and hospitalizations for urosepsis (weak detrusor and
hypersensitive
bladder), presenting with slurred speech, tachypnea, and altered
mental status.

Patient lives at home with home health aid. Was noted to have
worsened slurred speech with tachypnea. Of note recently had DBS
generator change ___. 

- In the ED, initial VS: T 970.8 (tmax 100.4), HR 106, BP 
118/78,
RR22, PO2 98% RA 
- Exam was notable for: Appears tired and confused, no CVA
tenderness;  Parkinsonian movements, difficulty speaking, alert
and oriented to self and place but not time 
- Labs were notable for: wbc 19.4, hgb 15.9, ANC 16.7, serum tox
negative, Phos 2.1, Cr 0.8, lactate 1.4, INR 1.2, urine tox
negative; UA large ___, trace blood, positive nitrites, 30
protein, 57 WBCs
- Studies were notable for:
*CT head: Deep brain stimulator devices remain in place with
subsequent artifact. Within this limitation, no evidence of 
acute
intracranial process. 
*CXR: Bibasilar opacities presumably due to atelectasis in
setting of low lung volumes. 
- The patient was given:
PO Acetaminophen 1000 mg   
IV CefTRIAXone 1 g  
IVF  NS 1000 mL  
PO/NG Carbidopa-Levodopa (___) 2 TAB 

On arrival to the floor, patient denies dizziness, fevers, 
cough,
diarrhea, abdominal pain, nausea, vomiting, dysuria, urinary
frequency. Notes that he is having worsened slurred speech. 

 
Past Medical History:
___ disease s/p bilateral DBS
Depression
Urodynamic partial obstruction with repeated urinary retention
and hospitalizations for urosepsis 
 
Social History:
___
Family History:
No family history of ___ disease, no family history of 
any other neurologic disorders.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: T98.1, BP 105/66, HR 73, RR 17, PO2 95 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. (+) voluntary epigastric
guarding
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Slurred speech; Moving all 4
limbs spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE EXAM:
===============
VITALS: 24 HR Data (last updated ___ @ 025)
    Temp: 98.8 (Tm 98.8), BP: 156/92 (132-160/75-96), HR: 79
(76-90), RR: 18 (___), O2 sat: 96% (95-96), O2 delivery: Ra  
GENERAL: NAD
CARDIAC: RRR
LUNGS: CTABL with no increased WOB
ABDOMEN: +BS, soft, ND, NT. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
NEUROLOGIC: AOx3. CN2-12 intact. Slurred speech; Moving all 4
limbs spontaneously. ___ strength throughout. Normal sensation.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:28PM   PLT COUNT-169
___ 08:28PM   NEUTS-85.4* LYMPHS-5.3* MONOS-8.3 EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-16.71* AbsLymp-1.04* AbsMono-1.62* 
AbsEos-0.02* AbsBaso-0.05
___ 08:28PM   WBC-19.6* RBC-5.09 HGB-15.9 HCT-46.7 MCV-92 
MCH-31.2 MCHC-34.0 RDW-12.2 RDWSD-41.2
___ 08:28PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:28PM   CALCIUM-9.7 PHOSPHATE-2.1* MAGNESIUM-2.0
___ 08:28PM   GLUCOSE-104* UREA N-12 CREAT-0.8 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-24 ANION GAP-12
___ 09:12PM   LACTATE-1.4
___ 09:18PM   ___ PTT-28.8 ___
___ 10:16PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:39PM URINE  RBC-7* WBC-57* BACTERIA-MOD* YEAST-NONE 
EPI-<1
___ 10:39PM URINE  BLOOD-TR* NITRITE-POS* PROTEIN-30* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*

DISCHARGE LABS:
===============
___ 06:21AM BLOOD WBC-6.8 RBC-5.24 Hgb-16.3 Hct-48.7 MCV-93 
MCH-31.1 MCHC-33.5 RDW-12.2 RDWSD-42.0 Plt ___
___ 06:21AM BLOOD Glucose-88 UreaN-10 Creat-0.8 Na-143 
K-3.8 Cl-104 HCO3-25 AnGap-14
___ 06:21AM BLOOD Calcium-10.1 Phos-3.4 Mg-2.2

MICROBIOLOGY:
=============
Time Taken Not Noted     Log-In Date/Time: ___ 10:41 pm
      URINE      TAKEN FROM 60122C. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ BCx x2= NGTD
___ BCx x2= NGTD

IMAGING:
___ CT Head WO Contrast
IMPRESSION:  
Deep brain stimulator devices remain in place with subsequent 
artifact.  
Within this limitation, no evidence of acute intracranial 
process. 

___ CXR
IMPRESSION: Bibasilar opacities presumably due to atelectasis in 
setting of low lung volumes. 

 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY:
=======================
___ man with ___ disease s/p bilateral DBS, 
depression, and urodynamic partial obstruction with repeated 
urinary retention and hospitalizations for urosepsis, presenting 
with slurred speech, tachypnea, and altered mental status with 
concern for urosepsis.

TRANSITIONAL ISSUES:
====================
[] Patient was discharged on cipro 250mg q12h for a 7-day course 
for UTI treatment (___)
[] Patient was evaluated by speech and swallow and recommended 
for a pureed solids diet with nectar thickened liquids. 

ACUTE ISSUES:
=============
# E coli UTI
# Urosepsis, resolved
# Urodynamic partial obstruction
Patient with slurred speech and altered mental status, found to
have WBC to 19.6 with left shift and UA suggestive of UTI (urine
culture in the past with pan-sensitive pseudomonas). Sinus
tachycardia to the 100s suggesting systemic involvement and
possible urosepsis; BPs stable and lactate wnl, s/p 1L IVF. No
other localizing infectious symptoms, CXR wnl, generator change
site healing well with no acute erythema/fluctuance. Patient was 
started on IV Ceftriaxone, then transitioned to cipro once urine 
culture grew pan-sensitive E coli, with plan for 7d course 
(___). Leukocytosis downtrended and was normal on 
discharge. Patient was continued on home Tamsulosin and 
finasteride. Blood cultures with no growth. 

# Tachypnea
Patient presented with RR in the ___. CXR with bibasilar
opacities presumably due to atelectasis in setting of low lung
volumes. Likely ___ sepsis as above. Satting well on room air.
Improved without intervention. 

# Toxic metabolic encephalopathy
Likely altered in setting of infection. CT head with deep brain 
stimulator devices remain in place with subsequent artifact, no 
evidence of acute intracranial process. Utox/serum tox negative. 
Likely ___ metabolic derangement iso uropsesis. Patient's sister 
does note that patient has slurred speech at baseline. SLP 
recommended continued pureed solids and nectar thickened liquid 
diet. 

CHRONIC ISSUES:
===============
# ___ disease s/p bilateral DBS: continued 
Carbidopa/levodopa 10mg-100mg 3 tab every morning, then 2 tab q2 
hours when awake prn. At baseline per ___.

# Depression: continued Buproprion XL 450mg daily. Initially 
held clonazepam and trazodone given mental status, restarted on 
discharge.

# CODE: DNR/DNI confirmed with sister ___ ___
# CONTACT: ___ 
___: sister 
Phone number: ___ 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 450 mg PO DAILY 
2. Carbidopa-Levodopa (___) 3 TAB PO QAM 
3. ClonazePAM 0.5 mg PO BID:PRN anxiety 
4. Finasteride 5 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. TraZODone 25 mg PO QHS 
7. Carbidopa-Levodopa (___) 2 TAB PO Q2H 
8. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
3.  Carbidopa-Levodopa (___) 3 TAB PO QAM  
4.  Carbidopa-Levodopa (___) 2 TAB PO Q2H  
5.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
6.  Finasteride 5 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
8.  Tamsulosin 0.4 mg PO QHS  
9.  TraZODone 25 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#E coli UTI 
#Urosepsis 
#Urodynamic partial obstruction with repeated urinary retention 
#Toxic metabolic encephalopathy  
___ disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
-You came to the hospital because you were confused.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-You were diagnosed with a urinary tract infection. You received 
IV antibiotics to treat the infection, and then were 
transitioned to oral antibiotics. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the ___!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___